US07371753B2
(R)-2-{4-[4-(3-amino-propyl)-piperazin-1-yl]-2-methoxy-phenylamino}-7-ethyl-8-isopropyl-5-methyl-7,8-dihydro-5H-pteridin-6-one
33 mg (0.045 mmol) benzyl (3-{4-[4-((R)-7-ethyl-8-isopropyl-5-methyl-6-oxo-5,6,7,8-tetrahydro-pteridin-2-ylamino)-3-methoxy-phenyl]-piperazin-1-yl}-propyl)-carbamate are taken up in 5 ml of methanol combined with 4 mg palladium hydroxide and stirred for 24 h at 20° C. and 7 bar hydrogen pressure. Then the catalyst is filtered off and the solvent is eliminated in vacuo.

reactant | benzyl (3-{4-[4-((R)-7-ethyl-8-isopropyl-5-methyl-6-oxo-5,6,7,8-tetrahydro-pteridin-2-ylamino)-3-methoxy-phenyl]-piperazin-1-yl}-propyl)-carbamate | 0.045 mmol, 33 mg | C(C)[C@@H]1C(N(C=2C=NC(=NC2N1C(C)C)NC1=C(C=C(C=C1)N1CCN(CC1)CCCNC(OCC1=CC=CC=C1)=O)OC)C)=O | C34H46N8O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium hydroxide | 4 mg | [OH-].[Pd+2].[OH-]
product | (R)-2-{4-[4-(3-amino-propyl)-piperazin-1-yl]-2-methoxy-phenylamino}-7-ethyl-8-isopropyl-5-methyl-7,8-dihydro-5H-pteridin-6-one | NCCCN1CCN(CC1)C1=CC(=C(C=C1)NC1=NC=2N([C@@H](C(N(C2C=N1)C)=O)CC)C(C)C)OC | C26H40N8O2
